US07208524B2
tert-Butyl N-[2-(2-benzyloxy-4-isopropylphenyl)-ethyl]carbamate (12.00 g) was dissolved in 150 mL of ethanol. To the stirred solution was added 1.10 g of 10% palladium on carbon under ice-cooling, and the mixture was stirred under a hydrogen atmosphere and ordinary pressure at 30° C. for 16 hours. The insoluble material was filtered, and the filtrate was concentrated under reduced pressure to give 6.66 g of tert-butyl N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]carbamate.

reactant | tert-Butyl N-[2-(2-benzyloxy-4-isopropylphenyl)-ethyl]carbamate | 12.00 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C23H31NO3
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.10 g | [Pd] | Pd
product | tert-butyl N-[2-(2-hydroxy-4-isopropylphenyl)ethyl]carbamate | 6.66 g | OC1=C(C=CC(=C1)C(C)C)CCNC(OC(C)(C)C)=O | C16H25NO3
